US04245082
The procedures and equipment used in this monomer preparation are as described in Example I. A solution of 94.5 g m-anisoyl chloride (0.554 mole) in 113 ml of tetrachloroethane was added dropwise to a stirred, cooled mixture of 80.7 g o-methylanisole (0.661 mole), 94.5 g anhydrous aluminum chloride, and 113 ml tetrachloroethane, keeping the temperature of about 15° C. The mixture stood at room temperature for 24 hr. After adding ice and extracting with methylene chloride as in the preparation of 3,4'-methoxybenzophenone of Example I, an impure liquid was obtained from which the 3,4'-dimethoxy-4-methylbenzophenone was obtained by fractional distillation in a 25 cm Vigreux column at 198° C. and 2.0 torr (0.27 kPa) pressure. Yield was 114 g (0.445 mole).

reactant | m-anisoyl chloride | 0.554 mole, 94.5 g | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | o-methylanisole | 0.661 mole, 80.7 g | CC1=C(C=CC=C1)OC | C8H10O
reactant | aluminum chloride | 94.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | tetrachloroethane | 113 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
reactant | tetrachloroethane | 113 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 3,4'-dimethoxy-4-methylbenzophenone | COC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=CC1C | C16H16O3
